US05252538
Preparation of methyl 2-aminopyrazine-3-carboxylate
3-Aminopyrazine-2-carboxylic acid (55.5 g, 0.4 mol) is suspended in 400 mL of methanol, cooled in an ice bath and concentrated sulfuric acid (80 mL) is gradually added with stirring and stirring then continued for 48 hours at room temperature. The resulting dark brown solution is poured into 700 mL of water containing sodium bicarbonate (160 g). The brown crystalline solid which precipitates is collected and dried. The crude product is purified by recrystallization from water to yield the product as yellow needles in 63% yield, melting point 169°-170° C.

reactant | 3-Aminopyrazine-2-carboxylic acid | 0.4 mol, 55.5 g | NC=1C(=NC=CN1)C(=O)O | C5H5N3O2
reactant | sulfuric acid | 80 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 700 mL | O | H2O
reactant | sodium bicarbonate | 160 g | C([O-])(O)=O.[Na+]
solvent | methanol | 400 mL | CO | CH4O
product | methyl 2-aminopyrazine-3-carboxylate | 63% yield | NC1=NC=CN=C1C(=O)OC | C6H7N3O2
